US06495125B2
2-(2- {4-[3-(3,5-Di-tert-butyl-4-hydroxy-phenyl)-propionylamino]-benzene-sulfonylamino}-ethylsulfanyl)-1-methyl-pyrimidin-1-ium bromide
A stirred mixture of 1-methyl-1H-pyrimidine-2-thione (2.76 g, 0.0219 mol) and N-[4-(2-bromo-ethylsulfamoyl)-phenyl]-3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-propionamide (9.98 g, 0.0185 mol) in 1-propanol (25 ml) was heated at reflux for 2.5 hours. The mixture was spin-evaporated in vacuo to give a solid residue. The residue was dissolved in ethyl acetate (200 g) and mixed with tert.-butyl-methyl ether (20 g) to give two liquid phases. The lower phase was concentrated in vacuo to give2-(2-{4-[3-(3,5-Di-tert-butyl-4-hydroxy-phenyl)-propionylamino]-benzenesulfonylamino} -ethylsulfanyl)-1-methyl-pyrimidin-1-ium bromide.

reactant | 1-methyl-1H-pyrimidine-2-thione | 0.0219 mol, 2.76 g | CN1C(N=CC=C1)=S | C5H6N2S
reactant | N-[4-(2-bromo-ethylsulfamoyl)-phenyl]-3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-propionamide | 0.0185 mol, 9.98 g | BrCCNS(=O)(=O)C1=CC=C(C=C1)NC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C25H35BrN2O4S
reactant | tert.-butyl-methyl ether | 20 g | C(C)(C)(C)OC | C5H12O
solvent | 1-propanol | 25 ml | C(CC)O | C3H8O
solvent | ethyl acetate | 200 g | C(C)(=O)OCC | C4H8O2
product | 2-(2- {4-[3-(3,5-Di-tert-butyl-4-hydroxy-phenyl)-propionylamino]-benzene-sulfonylamino}-ethylsulfanyl)-1-methyl-pyrimidin-1-ium bromide | [Br-].C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NC1=CC=C(C=C1)S(=O)(=O)NCCSC1=[N+](C=CC=N1)C | InChI=1S/C30H40N4O4S2.BrH/c1-29(2,3)24-19-21(20-25(27(24)36)30(4,5)6)9-14-26(35)33-22-10-12-23(13-11-22)40(37,38)32-16-18-39-28-31-15-8-17-34(28)7;/h8,10-13,15,17,19-20,32H,9,14,16,18H2,1-7H3,(H-,33,35,36);1H
